US04243678
Analogously to Example 59, reacting 7.0 g of ethyl 4-(6-methoxybiphenyl-3-yl)aminobutyrate with 4.6 g of 5-chloro-2-methoxybenzoyl chloride, followed by saponification of the intermediate product, yields 7.1 g (70.1% of theory) of 4-[5-chloro-2-methoxy-N-(6-methoxybiphenyl-3-yl)benzamido]-butyric acid, MP 155° to 156°.

reactant | ethyl 4-(6-methoxybiphenyl-3-yl)aminobutyrate | 7.0 g | COC1=CC=C(C=C1C1=CC=CC=C1)NCCCC(=O)OCC | C19H23NO3
reactant | 5-chloro-2-methoxybenzoyl chloride | 4.6 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | 4-[5-chloro-2-methoxy-N-(6-methoxybiphenyl-3-yl)benzamido]-butyric acid | 7.1 g, 70.1% | ClC=1C=CC(=C(C(=O)N(C=2C=C(C(=CC2)OC)C2=CC=CC=C2)CCCC(=O)O)C1)OC | C25H24ClNO5
